* Z:\mnt\spice-netlists\LT1615-1.asc
V1 IN 0 1
L1 IN N001 22µ
R1 OUT N002 1Meg
R2 N002 0 604K
C1 IN 0 4.7µ
C3 OUT 0 10µ
I1 OUT 0 15m load
D1 N001 OUT CMDSH2-3
XU1 N001 0 N002 IN IN LT1615-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m startup
* LT1615-1 - µPower Step-up DC/DC Converter in ThinSOT\nInput: 1V to 1.5V      Output: 3.3V@15mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1615-1.sub
.backanno
.end
