* Z:\mnt\spice-netlists\LT1617-1.asc
D1 N002 0 CMDSH2-3
R1 N003 0 24.9K
R2 OUT N003 150K
V1 IN 0 1.2
L1 OUT N002 47µ
L2 IN N001 47µ
I1 0 OUT 2.5m load
XU1 N001 0 N003 IN IN LT1617-1
C1 OUT 0 4.7µ
C2 N002 N001 .22µ
C3 IN 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1617-1 -   0.4us Off-Time µPower Inverting DC/DC Converters\nInput: 1.2V     Output: -9V @ 2.5mA
.lib LT1617-1.sub
.backanno
.end
