* Z:\mnt\spice-netlists\LT1934-1.asc
C1 N001 N002 0.22µ
L1 N002 OUT 100µ
R1 OUT N004 1Meg
R2 0 N004 604K
D1 0 N002 MBR0540
D2 OUT N001 CMDSH2-3
V1 IN 0 10
C2 OUT 0 22µ
C3 N003 0 .1µ
R3 IN N003 15K
XU1 N001 0 N004 N003 IN N002 LT1934-1
C4 OUT N004 10p
C5 IN 0 1µ
R4 OUT 0 73.3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1934-1 - 60mA µPower Step-Down Switching Regulator\nInput: 10V     Output: 3.3V @ 45mA
.lib LT1934-1.sub
.backanno
.end
