* Z:\mnt\spice-netlists\LT3475-1.asc
V1 IN 0 32
L1 N006 OUT2 47µ
C1 N003 N006 .22µ
C2 N013 0 .1µ
R1 0 N018 24.3K
D1 0 N006 1N5819
C3 OUT2 0 2.2µ
C4 IN 0 2.2µ
R2 OUT2 N010 10K
R3 N016 0 100K
D2 N016 N012 BZX84C10L
Q1 N014 N016 0 0 2N3904
D3 N004 OUT2 BZX84C8V2L
D4 N012 N010 BZX84C10L
XU1 OUT1 N008 N002 N005 IN MP_01 N006 N003 N009 OUT2 NC_02 N017 N014 N018 0 IN N017 N013 N017 NC_03 LT3475-1
D5 N004 N003 1N4148
D6 N008 0 LXK2-PW14 N=4
C5 N002 N005 .22µ
D7 N001 N002 1N4148
D8 N001 OUT1 BZX84C8V2L
D9 N011 N007 BZX84C10L
D10 N015 N011 BZX84C10L
D11 0 N005 1N5819
L2 N005 OUT1 47µ
R4 OUT1 N007 10K
R5 N015 0 100K
C6 OUT1 0 2.2µ
Q2 N013 N015 0 0 2N3904
C7 N014 0 .1µ
D12 N009 0 LXK2-PW14 N=4
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 2ms startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc.  All rights reserved.
* LT3475-1 - 1.5A, Wide Input Range Dual Step-Down LED Driver DC/DC Converter\nInput: 32V        Output: 1.5A through two strings of four LEDs
.lib LT3475-1.sub
.backanno
.end
