* Z:\mnt\spice-netlists\LT3495-1.asc
R1 OUT N003 909K
V1 IN 0 3.6
L1 IN N001 10µ
C1 N002 0 2.2µ
C2 OUT 0 1µ
D1 N001 N002 MBR0520L
Rload OUT 0 533
XU1 0 MP_01 IN IN IN N003 OUT N002 MP_02 N001 LT3495-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LT3495-1, µPower Low Noise Boost Converter with Output Disconnect\nInput: 3.6V       Output: 16V @ 30mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3495-1.sub
.backanno
.end
