* Z:\mnt\spice-netlists\LT3756-1.asc
C1 N004 0 4.7µ
M§Q1 N001 N006 N008 N008 SI7454DP
R1 N008 0 .015
L1 IN N001 47µ
R2 N002 N009 1820K
R3 N009 0 24.9K
D1 N001 N002 PDS5100
R4 N002 N011 .2
C2 N002 0 8µ
V1 IN 0 12
R5 IN N003 499K
R6 N003 0 93.1K
C3 N012 0 .0047µ
M§Q2 N015 N018 0 0 SI7454DP
D2 N011 N015 LXK2-PW14 N=24
C4 N014 0 .033µ
R7 N016 0 43K
V2 N017 0 PULSE(0 5 0 1u 1u 125u 250u)
R8 IN N010 1000K
R9 N010 0 130K
R10 N013 N012 10K
C5 IN 0 4.4µ
XU1 N007 N017 N005 N014 N016 N003 N004 IN N008 N006 N018 N009 N011 N002 N013 N010 0 LT3756-1
V3 N005 0 PULSE(0 5 0 100n 100n 1.7u 3.33u)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 8m startup
* LT3756-1 - 100VIN 100VLED High Current LED Driver Controller with Sync\nInput: 8V to 80V       Output: 80VLED @ 500mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LT3756-1.sub
.backanno
.end
