* Z:\mnt\spice-netlists\LT8570-1_DC2297A-B_TA02B.asc
L1 IN N001 47µ
D1 N001 OUT 1N5818
C1 OUT 0 2.2µ
C2 0 N006 2200p
R1 N005 0 56.2K
C3 N003 0 .001µ
V1 IN 0 5
R2 OUT N004 130K
Rload OUT 0 200
R3 IN N002 10K
C4 IN 0 4.7µ
XU1 N004 N006 IN N001 N002 N005 N003 MP_01 0 LT8570-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LT8570-1 - Boost/SEPIC/Inverting DC/DC Converter with 250mA, 65V Switch, Soft-Start and Synchronization\nBoost Converter\nInput: 5V to 10V     Output: 12V @ 60mA, Fsw = 1.5MHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8570-1.sub
.backanno
.end
