* Z:\mnt\spice-netlists\LT3799-1_DC1816A.asc
C1 N010 0 .01µ
C2 N014 0 4.7µ
C3 N019 N021 4.7n
M§Q1 N015 N017 N018 N018 STW11NM80
R1 N018 0 .015
R2 N013 N016 200K
R3 N016 N020 40.2K
R4 N020 0 14K
L1 N001 N015 180µ
L2 0 N005 5µ
L3 0 N007 11.25µ
C4 N005 N009 4.7p
C5 N004 0 10µ
R5 N001 N008 1Meg
R6 N008 0 3.09K
D1 N005 N004 1N4148
R7 N001 N004 200K
D2 N015 N012 UPSC600
D3 N001 N012 DFLZ33 N=6
D4 N007 OUT MURS320
C6 OUT 0 680µ
D5 OUT 0 PT-121-B N=11
I1 0 N004 pwl(0 0 10u 28 20u 0)
R8 N011 0 4.32K
R9 N005 N011 100K
D6 N002 N001 1N4007
D7 0 N003 1N4007
D8 0 N002 1N4007
D9 N003 N001 1N4007
V1 N002 N006 SINE(0 393 300)
C7 N001 0 0.47µ
L4 N006 N003 300µ
I2 0 OUT pwl(0 0 10u 800 20u 0)
XU1 N016 N016 N020 N016 N013 N010 N019 N021 N011 N009 N004 MP_01 N014 N017 N018 N008 0 LT3799-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1
.tran 20m
.model 1N4007 D(Is=90p Rs=40m
+  Cjo=30p N=1.4 TT=5u)
* LT3799-1 - Offline Isolated Flyback LED Controller with Active PFC \nInput: 277VAC   Output: 3A/36V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3799-1.sub
.backanno
.end
