* Z:\mnt\spice-netlists\LT1952-1_LTC3900.asc
R1 N013 0 .015
R2 N013 N012 47
R3 N012 N015 1K
C1 N012 0 1n
R4 N021 0 39K
R5 N020 0 100K
R6 N016 0 115K
L1 IN N003 360µ
R7 N010 0 158k
R8 N011 N010 22.1K
R9 IN N008 237K
R10 N008 0 9.1K
C2 N010 0 .05µ
L2 N001 N004 10µ
L3 N001 OUT 1.2µ
C3 OUT 0 470µ
R11 OUT N005 20.47K
R12 N005 0 12.1K
C4 N003 0 330p
C5 N018 N017 470p
L4 N023 0 400µ
L5 0 N024 676µ
C6 N023 N022 220p
R13 N024 0 560
C7 N019 0 470p
R14 N014 N019 47.5K
V1 IN 0 48
M§Q1 N003 N009 N013 N013 Si4490DY
M§Q2 N004 N006 0 0 HAT2165H
M§Q3 N001 N007 0 0 HAT2165H
R15 N005 N018 5K
XU2 0 0 N007 N014 N006 0 N019 N024 LTC3900
V3 N014 0 7
Rload OUT 0 .165
V2 N002 0 12
XU3 N017 N005 N016 MP_01 N010 N011 N008 0 N021 N015 N012 N020 0 N009 N002 N022 LT1952-1
C8 IN 0 10µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 2m startup
K2 L4 L5 1
* Note:\n  Opto coupler/driver not included on feedback to simplify simulation.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LT1952-1 - Single Switch Synchronous Forward Controller\nLTC3900 - Synchronous Rectifier Driver for Forward Converters\nSynchronous Forward Converter\nInput : 36V (39V Startup) to 75V       Output: 3.3V @ 20A
.lib LT1952-1.sub
.lib LTC3900.sub
.backanno
.end
